US04980371
A solution of 30.4 g (0.2 moles) of 2-dodecylfuran in 300 ml of anhydrous ether is stirred at -20° C. after which 0.22 moles (92 ml of a 2.4 molar hexane solution) of butyllithium is added slowly with stirring. The reaction mixture is stirred for 1 hour then poured over 200 g of crushed dry ice (solid CO2) after which the mixture is allowed to stand for 1 hour prior to dilution with a saturated ammonium chloride solution The organic layer is separated, washed with water and brine, dried over sodium sulfate and evaporated to give 5-dodecyl-2-furancarboxylic acid. The thus obtained acid in 500 ml of anhydrous ether is stirred at room temperature during which time 200 ml of a 2 molar solution of methyllithium in ether is added slowly. The reaction mixture is allowed to stand at room temperature for 2 hours after which it is poured into a saturated ammonium chloride solution The organic layer is separated and washed with water and brine, dried over sodium sulfate and evaporated to dryness to give white crystals of methyl 2-(5-dodecylfuryl) ketone. M.P. 35°-7° C.

reactant | 2-dodecylfuran | 0.2 moles, 30.4 g | C(CCCCCCCCCCC)C=1OC=CC1 | C16H28O
reactant | hexane | 2.4 molar | CCCCCC | C6H14
reactant | butyllithium | C(CCC)[Li]
reactant | dry ice | 200 g | C(=O)=O | CO2
solvent | ether | 300 ml | CCOCC | C4H10O
product | 5-dodecyl-2-furancarboxylic acid | C(CCCCCCCCCCC)C1=CC=C(O1)C(=O)O | C17H28O3
